US05360802
Step 2: 2-Methyl-1-(methylsulphonylaminocarbonyl)-5-aminobenzene
In the same way as that described in Example 11, Step 2, using 2-methyl-1-(methylsulphonylaminocarbonyl)-5-nitrobenzene (3 g, 11.6 mmol), 10% palladium on carbon (0.3 g, 10% (w/w)) in water (2 ml) and ethanol (100 ml), the title compound (2.1 g, 79%) was afforded as a pale yellow crystalline solid. mp 174°-176° C. 1H NMR (360 MHz, D6-DMSO) δ 2.17 (3H, s), 3.32 (3H, s), 6.61 (1H, dd, J=8.1 and 2.5 Hz), 6.67 (1H, d, J=2.4 Hz), 6.92 (1H, d, J=8.2 Hz).

reactant | 2-methyl-1-(methylsulphonylaminocarbonyl)-5-nitrobenzene | 11.6 mmol, 3 g | CC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)NS(=O)(=O)C | C9H10N2O5S
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | water | 2 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Methyl-1-(methylsulphonylaminocarbonyl)-5-aminobenzene | 2.1 g, 79% | CC1=C(C=C(C=C1)N)C(=O)NS(=O)(=O)C | C9H12N2O3S
